US07842696B2
DIPEA (92 mg, 0.12 mL, 0.71 mmol) was added to a stirred solution of 5-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid (59 mg, 0.28 mmol) in DMF (2 mL). HOBT (40 mg, 0.29 mmol) and EDCI (57 mg, 0.29 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone (100 mg, 0.28 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated to afford 131 mg (91.6% yield) of 5-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.28%. 1H NMR (DMSO-d6): δ 13.8 (d, 1H), 8.0 (m, 1H), 7.6 (m, 3H), 7.2 (m, 4H), 7.1 (m, 1H), 4.1 (d, 2H), 3.5 (m, 4H), 3.35 (m, 2H), 3.0 (m, 2H).

reactant | DIPEA | 0.71 mmol, 0.12 mL, 92 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid | 0.28 mmol, 59 mg | FC1=C(C=CC=C1)C1=CC(=NN1)C(=O)O | C10H7FN2O2
reactant | HOBT | 0.29 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.29 mmol, 57 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | 0.28 mmol, 100 mg | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-fluoro-phenyl)-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 131 mg, 91.6% yield | O=C(CNC(=O)C1=NNC(=C1)C1=C(C=CC=C1)F)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H21F4N5O3
